T1 (net93 net399 net399 0) pfet L=8.77E-6 W=7.28E-6
R2 (net403 net95) R=5.1E0
R3 (net313 net245) R=2.0E2
C4 (net354 net25) C=7.0E-6
R5 (net112 net269) R=7.8E2
T6 (net42 net350 net350 0) nfet L=8.26E-6 W=3.45E-6
R7 (net417 net307) R=2.3E0
T8 (0 net286 net286 0) nfet L=0.58E-6 W=7.42E-6
R9 ( net1 net171)  R=9.3E3
T10 ( net171 net256 0 0)  nfet  L=4.03E-6 W=9.69E-6
T11 ( net37 net256 0 0)  nfet  L=4.03E-6 W=9.69E-6
T12 ( net326 net171 net37 0)  nfet  L=4.03E-6 W=9.69E-6
C13 (net200 net231) C=2.8E-8
R14 (net158 vdd!) R=3.2E6
T15 (net132 net335 net335 0) pfet L=3.62E-6 W=9.51E-6
R16 (net52 net50) R=7.4E0
C17 (net105 net311) C=9.6E-9
T18 (net286 net206 net206 0) nfet L=4.10E-6 W=8.20E-6
R19 (net355 net245) R=3.4E3
T20 (net361 net38 net38 0) nfet L=8.09E-6 W=6.02E-6
T21 (net27 net122 net122 0) pfet L=9.96E-6 W=4.72E-6
C22 (net331 net285) C=2.3E-14
T23 (net81 net91 net91 0) nfet L=8.02E-6 W=9.30E-6
T24 (net311 net379 net379 0) nfet L=5.12E-6 W=3.92E-6
C25 (net379 net142) C=0.6E-8
R26 (net231 net423) R=8.5E1
T27 (net319 net374 net374 0) pfet L=1.30E-6 W=2.64E-6
T28 (net183 net140 net140 0) nfet L=8.12E-6 W=1.81E-6
T29 (net152 net278 net278 0) pfet L=9.06E-6 W=5.36E-6
C30 (net94 net292) C=4.2E-10
T31 (0 net413 net413 0) nfet L=6.00E-6 W=9.11E-6
T32 (net429 net59 net59 0) pfet L=5.07E-6 W=2.21E-6
T33 (0 net168 net168 0) nfet L=6.61E-6 W=1.36E-6
T34 (net88 0 0 0) pfet L=6.10E-6 W=6.94E-6
T35 (0 net348 net348 0) nfet L=0.31E-6 W=2.09E-6
T36 (net40 net254 net254 0) nfet L=7.59E-6 W=7.96E-6
C37 (net358 net233) C=7.8E-7
T38 (net374 net80 net80 0) pfet L=5.63E-6 W=3.74E-6
T39 (net147 net252 net252 0) pfet L=4.96E-6 W=7.19E-6
T40 (net109 net413 net413 0) pfet L=8.27E-6 W=9.15E-6
T41 (0 net132 net132 0) nfet L=4.64E-6 W=1.56E-6
C42 (net234 net271) C=2.7E-11
T43 (net182 net251 net251 0) pfet L=7.38E-6 W=0.78E-6
R44 (net229 net383) R=9.2E2
T45 (0 net234 net234 0) nfet L=6.54E-6 W=7.63E-6
T46 (net49 vdd! vdd! 0) pfet L=5.41E-6 W=4.01E-6
R47 (net349 net412) R=8.7E6
T48 (net239 net32 net32 0) pfet L=5.00E-6 W=1.88E-6
T49 (net149 net9 net9 0) nfet L=6.36E-6 W=0.65E-6
T50 (net347 net224 net224 0) nfet L=2.38E-6 W=7.25E-6
R51 (net336 net74) R=1.3E1
R52 (net281 net341) R=7.8E4
T53 (net397 net336 net336 0) pfet L=2.49E-6 W=1.26E-6
C54 (net411 net269) C=2.1E-7
T55 (net300 0 0 0) nfet L=0.28E-6 W=2.94E-6
T56 (net234 net376 net376 0) pfet L=9.31E-6 W=3.59E-6
T57 (net355 net395 net395 0) pfet L=9.44E-6 W=2.74E-6
T58 (net394 net45 net45 0) nfet L=5.81E-6 W=6.30E-6
C59 (net39 net10) C=4.5E-7
T60 (net129 net235 net235 0) pfet L=2.85E-6 W=7.16E-6
C61 (net211 vdd!) C=3.2E-13
T62 (net54 net147 net147 0) nfet L=3.43E-6 W=5.16E-6
T63 (net63 0 0 0) pfet L=9.56E-6 W=5.75E-6
T64 (net262 net56 net56 0) nfet L=1.85E-6 W=9.01E-6
T65 (0 net240 net240 0) nfet L=2.67E-6 W=4.08E-6
T66 (net175 net370 net370 0) nfet L=9.44E-6 W=7.46E-6
R67 (net354 net353) R=8.7E2
C68 (net110 vdd!) C=1.8E-7
C69 (net180 net384) C=4.2E-6
R70 (net425 net369) R=0.7E1
R71 (net183 net311) R=4.9E2
T72 (net350 net88 net88 0) nfet L=0.67E-6 W=0.86E-6
T73 (0 net317 net317 0) nfet L=6.60E-6 W=2.07E-6
T74 (net343 net38 net38 0) nfet L=7.86E-6 W=9.06E-6
C75 (net14 net393) C=8.5E-13
T76 (0 net18 net18 0) pfet L=2.62E-6 W=0.60E-6
R77 (net325 net128) R=3.8E1
T78 (net140 net1 net1 0) nfet L=3.82E-6 W=5.30E-6
T79 (net276 net389 net389 0) pfet L=4.71E-6 W=6.51E-6
T80 (net238 net373 net373 0) pfet L=5.32E-6 W=4.74E-6
R81 (net124 vdd!) R=0.4E6
C82 (net113 net30) C=1.1E-14
T83 (net282 net196 net196 0) pfet L=4.75E-6 W=6.68E-6
T84 (net205 net423 net423 0) nfet L=0.75E-6 W=7.45E-6
R85 (0 net50) R=7.4E0
T86 (net91 net130 net130 0) pfet L=7.27E-6 W=0.91E-6
T87 (net203 net287 net287 0) pfet L=0.53E-6 W=2.70E-6
R88 (net205 vdd!) R=8.1E0
T89 (net293 0 0 0) nfet L=3.94E-6 W=6.72E-6
T90 (0 0 0 0) nfet L=0.72E-6 W=4.26E-6
R91 (net89 net195) R=1.8E4
R92 (net23 net84) R=2.2E3
R93 (net394 net248) R=8.9E3
C94 (net118 net39) C=2.8E-5
C95 (net313 0) C=8.2E-5
C96 (net260 net170) C=5.8E-14
T97 (net371 net179 net179 0) nfet L=6.64E-6 W=2.53E-6
R98 (net165 net327) R=6.7E5
C99 (net174 net376) C=1.0E-9
C100 (net161 net236) C=4.5E-9
T101 (vdd! 0 0 0) nfet L=1.50E-6 W=7.88E-6
T102 (net213 net302 net302 0) nfet L=6.36E-6 W=2.95E-6
R103 (net27 net201) R=7.7E1
C104 (net290 vdd!) C=2.1E-14
C105 (net348 0) C=8.4E-7
R106 (net34 0) R=5.6E6
T107 (vdd! net34 net34 0) nfet L=3.41E-6 W=5.26E-6
C108 (net267 0) C=8.0E-9
T109 (net354 net98 net98 0) nfet L=2.12E-6 W=9.14E-6
T110 (net132 net30 net30 0) nfet L=6.23E-6 W=2.37E-6
R111 (net259 vdd!) R=4.3E2
R112 (net384 net13) R=7.6E2
T113 (net45 net393 net393 0) pfet L=7.46E-6 W=7.62E-6
T114 (net38 0 0 0) pfet L=6.82E-6 W=9.53E-6
R115 (net362 net266) R=4.9E3
T116 (net206 net179 net179 0) pfet L=5.84E-6 W=7.53E-6
T117 (net288 net326 net326 0) nfet L=5.86E-6 W=6.15E-6
T118 (net180 net109 net109 0) nfet L=2.25E-6 W=2.03E-6
T119 (net390 net202 net202 0) pfet L=0.31E-6 W=5.32E-6
T120 (net255 net20 net20 0) nfet L=5.91E-6 W=4.98E-6
C121 (net49 net210) C=3.4E-14
C122 (net50 net343) C=5.2E-13
T123 (net72 net199 net199 0) nfet L=4.87E-6 W=3.41E-6
T124 (net184 0 0 0) pfet L=7.84E-6 W=8.22E-6
R125 (net47 net381) R=9.7E4
T126 (net267 net137 net137 0) nfet L=9.18E-6 W=7.79E-6
C127 (net131 net428) C=2.3E-6
T128 (net123 0 0 0) nfet L=0.42E-6 W=9.77E-6
R129 (net216 net237) R=3.6E3
R130 (net179 net24) R=2.1E2
R131 (net2 net260) R=3.7E1
T132 (net394 net428 net428 0) nfet L=1.62E-6 W=0.87E-6
R133 (net397 net140) R=3.4E2
T134 (net40 net310 net310 0) nfet L=9.02E-6 W=1.96E-6
C135 (net76 net56) C=0.7E-12
R136 (net226 net276) R=2.4E6
T137 (net80 vdd! vdd! 0) pfet L=8.27E-6 W=8.43E-6
T138 (net309 net190 net190 0) pfet L=6.04E-6 W=7.77E-6
C139 (net399 net102) C=6.6E-11
R140 (0 net65) R=6.9E0
R141 (net182 net98) R=7.4E6
T142 (vdd! net214 net214 0) nfet L=9.29E-6 W=4.65E-6
T143 (net382 net192 net192 0) pfet L=6.97E-6 W=7.37E-6
C144 (net307 net42) C=7.3E-12
R145 (net124 net130) R=3.6E5
R146 (net11 net272) R=3.7E1
T147 (net36 net342 net342 0) pfet L=3.49E-6 W=5.85E-6
C148 (vdd! net138) C=4.7E-9
R149 (0 net214) R=6.4E0
C150 (net331 net236) C=1.0E-6
C151 (net427 net303) C=5.6E-13
T152 (net336 net421 net421 0) nfet L=3.15E-6 W=1.59E-6
T153 (vdd! net40 net40 0) pfet L=7.39E-6 W=0.95E-6
R154 (net370 net399) R=3.3E1
T155 (net382 net103 net103 0) nfet L=6.82E-6 W=6.02E-6
R156 (net130 net144) R=4.2E0
T157 (net258 net127 net127 0) pfet L=4.85E-6 W=8.61E-6
R158 (net233 net101) R=5.2E3
R159 (net368 net395) R=7.5E3
R160 (net243 net265) R=2.4E5
C161 (net350 net129) C=2.4E-6
T162 (net325 net309 net309 0) nfet L=5.12E-6 W=5.67E-6
T163 (net30 net301 net301 0) nfet L=3.20E-6 W=1.24E-6
R164 (0 net235) R=3.6E0
R165 (net200 vdd!) R=6.7E0
C166 (net80 net246) C=5.8E-6
C167 (net148 net70) C=6.1E-8
T168 (net24 net340 net340 0) nfet L=2.30E-6 W=8.01E-6
C169 (net411 net183) C=7.1E-7
R170 (net242 net44) R=1.3E5
T171 (net248 net291 net291 0) nfet L=9.67E-6 W=9.52E-6
R172 (net369 net418) R=8.0E4
R173 (net287 vdd!) R=2.2E0
T174 (net158 net247 net247 0) nfet L=8.13E-6 W=0.21E-6
T175 (net146 net115 net115 0) pfet L=5.13E-6 W=7.96E-6
T176 (net326 net199 net199 0) nfet L=4.10E-6 W=3.31E-6
T177 (net24 net257 net257 0) nfet L=3.31E-6 W=9.13E-6
R178 (net307 net247) R=5.0E4
C179 (net136 net403) C=3.5E-6
C180 (net332 net293) C=9.4E-10
R181 (net328 net353) R=8.3E5
C182 (net378 net11) C=7.8E-11
R183 (net40 net242) R=8.5E3
R184 (net150 net84) R=3.1E3
T185 (net272 net402 net402 0) nfet L=0.80E-6 W=2.90E-6
C186 (net412 net359) C=2.3E-10
R187 (net425 vdd!) R=4.8E3
T188 (net310 net382 net382 0) nfet L=9.35E-6 W=4.29E-6
C189 (net321 net322) C=8.9E-10
T190 (net100 net144 net144 0) nfet L=8.82E-6 W=6.57E-6
C191 (net392 net160) C=2.2E-6
T192 (net404 0 0 0) nfet L=1.45E-6 W=4.57E-6
T193 (net30 0 0 0) nfet L=8.93E-6 W=0.97E-6
C194 (net75 net220) C=0.6E-5
T195 (net218 net131 net131 0) nfet L=3.08E-6 W=8.81E-6
R196 (vdd! 0) R=4.3E1
T197 (net61 net145 net145 0) pfet L=8.10E-6 W=9.13E-6
T198 (net87 net51 net51 0) pfet L=4.01E-6 W=0.74E-6
R199 (net130 net415) R=5.6E0
T200 (net319 net46 net46 0) nfet L=5.19E-6 W=1.65E-6
C201 (net50 net188) C=4.1E-10
T202 (net5 net61 net61 0) pfet L=8.41E-6 W=7.18E-6
C203 (net146 net414) C=4.8E-9
T204 (net344 net278 net278 0) pfet L=6.96E-6 W=8.37E-6
T205 (net112 net364 net364 0) nfet L=5.11E-6 W=5.72E-6
T206 (net237 net236 net236 0) pfet L=8.80E-6 W=8.21E-6
C207 (net372 net154) C=9.3E-7
T208 (net33 net140 net140 0) pfet L=1.45E-6 W=7.34E-6
R209 (net196 net405) R=7.8E6
T210 (net352 net287 net287 0) pfet L=1.80E-6 W=3.06E-6
T211 (net371 net309 net309 0) pfet L=6.21E-6 W=2.60E-6
T212 (0 net243 net243 0) nfet L=5.89E-6 W=4.15E-6
T213 (net129 net370 net370 0) pfet L=7.84E-6 W=3.48E-6
T214 (net430 net320 net320 0) nfet L=0.96E-6 W=1.12E-6
C215 (net327 net118) C=4.2E-14
R216 (net132 net110) R=0.7E5
T217 (net102 net94 net94 0) nfet L=4.76E-6 W=0.59E-6
R218 (net287 net30) R=5.4E5
T219 (vdd! net427 net427 0) pfet L=5.81E-6 W=6.58E-6
T220 (net329 net57 net57 0) pfet L=1.94E-6 W=4.22E-6
C221 (net24 net411) C=0.9E-11
T222 (net152 0 0 0) pfet L=1.48E-6 W=6.00E-6
R223 (net260 net274) R=3.1E0
C224 (net184 net235) C=8.0E-11
T225 (net273 net237 net237 0) pfet L=6.55E-6 W=2.37E-6
T226 (net420 net398 net398 0) nfet L=9.80E-6 W=6.48E-6
R227 (net169 net220) R=3.6E4
C228 (net106 net213) C=6.3E-7
R229 (net44 net377) R=7.1E2
T230 (0 net46 net46 0) pfet L=8.06E-6 W=0.72E-6
C231 (net140 net322) C=7.9E-7
T232 (net214 net201 net201 0) pfet L=3.44E-6 W=0.61E-6
T233 (net24 net199 net199 0) nfet L=1.39E-6 W=0.19E-6
R234 (net304 vdd!) R=6.7E6
T235 (0 vdd! vdd! 0) nfet L=4.48E-6 W=2.53E-6
T236 (net326 net305 net305 0) pfet L=5.16E-6 W=2.55E-6
T237 (net371 vdd! vdd! 0) pfet L=8.27E-6 W=7.88E-6
C238 (net148 net326) C=9.7E-11
C239 (net223 net296) C=6.4E-5
T240 (net308 net160 net160 0) pfet L=6.49E-6 W=6.64E-6
T241 (vdd! net401 net401 0) pfet L=5.79E-6 W=1.04E-6
T242 (net325 net8 net8 0) nfet L=5.20E-6 W=1.00E-6
T243 (net214 net262 net262 0) nfet L=0.86E-6 W=5.60E-6
R244 (net371 net415) R=2.6E1
T245 (net4 net139 net139 0) pfet L=7.65E-6 W=0.44E-6
T246 (0 net313 net313 0) nfet L=5.45E-6 W=1.37E-6
C247 (net241 net225) C=5.7E-5
T248 (net242 net99 net99 0) nfet L=7.93E-6 W=4.34E-6
T249 (net208 net372 net372 0) nfet L=8.30E-6 W=0.54E-6
R250 (0 net408) R=2.3E0
T251 (net415 net147 net147 0) nfet L=8.00E-6 W=7.24E-6
T252 (net147 net244 net244 0) pfet L=7.84E-6 W=5.50E-6
C253 (net421 net132) C=3.9E-10
R254 (net334 net399) R=4.1E0
R255 (net174 net141) R=8.2E0
C256 (net2 net190) C=4.7E-8
T257 (net328 net102 net102 0) pfet L=7.88E-6 W=2.59E-6
T258 (net335 net57 net57 0) pfet L=0.21E-6 W=4.08E-6
T259 (net182 net22 net22 0) nfet L=7.92E-6 W=9.97E-6
T260 (net221 net359 net359 0) pfet L=2.95E-6 W=0.47E-6
T261 (0 net47 net47 0) nfet L=5.38E-6 W=3.64E-6
T262 (0 net410 net410 0) pfet L=3.89E-6 W=3.84E-6
R263 (net322 net210) R=8.8E1
T264 (net183 net399 net399 0) pfet L=0.77E-6 W=2.50E-6
T265 (net79 net419 net419 0) pfet L=2.34E-6 W=5.71E-6
R266 (net271 net279) R=5.1E1
T267 (net281 net63 net63 0) pfet L=6.36E-6 W=4.82E-6
T268 (net185 net366 net366 0) nfet L=3.69E-6 W=1.08E-6
T269 (0 net112 net112 0) nfet L=9.51E-6 W=8.57E-6
C270 (net267 net135) C=6.4E-11
C271 (net67 0) C=4.5E-8
T272 (net236 net94 net94 0) nfet L=8.14E-6 W=2.89E-6
T273 (0 net84 net84 0) pfet L=7.56E-6 W=7.22E-6
T274 (net32 net421 net421 0) pfet L=8.09E-6 W=4.07E-6
C275 (net308 net303) C=4.8E-9
T276 (net340 net17 net17 0) pfet L=3.88E-6 W=2.76E-6
R277 (0 net18) R=6.8E5
T278 (0 net419 net419 0) nfet L=0.90E-6 W=7.21E-6
R279 (net254 net47) R=2.8E3
T280 (net289 net237 net237 0) nfet L=5.51E-6 W=9.22E-6
C281 (net306 net428) C=2.3E-7
T282 (net75 net182 net182 0) nfet L=6.49E-6 W=7.88E-6
T283 (net245 net429 net429 0) nfet L=1.02E-6 W=6.03E-6
T284 (net30 net17 net17 0) pfet L=7.07E-6 W=2.36E-6
R285 (net279 net369) R=2.9E5
R286 (net311 net121) R=4.6E6
C287 (net223 net172) C=3.4E-6
T288 (0 net3 net3 0) nfet L=9.55E-6 W=8.83E-6
R289 (net208 net304) R=2.1E5
T290 (net351 net21 net21 0) pfet L=1.68E-6 W=7.95E-6
T291 (net373 net123 net123 0) pfet L=0.35E-6 W=7.13E-6
R292 (net306 net381) R=2.0E3
T293 (net301 net129 net129 0) pfet L=7.34E-6 W=7.77E-6
C294 (net122 net217) C=5.1E-13
T295 (net193 net84 net84 0) pfet L=7.61E-6 W=1.01E-6
T296 (net6 vdd! vdd! 0) nfet L=2.31E-6 W=9.30E-6
C297 (0 net354) C=4.2E-5
T298 (net160 net124 net124 0) nfet L=4.40E-6 W=6.26E-6
C299 (net415 net396) C=9.7E-11
R300 (net189 net251) R=2.2E1
C301 (net415 net153) C=4.1E-6
T302 (net309 net234 net234 0) nfet L=0.55E-6 W=2.15E-6
R303 (net425 0) R=0.1E3
R304 (net96 net40) R=4.0E6
C305 (net226 net227) C=3.0E-14
C306 (net250 net75) C=1.8E-8
T307 (0 net23 net23 0) pfet L=7.99E-6 W=2.08E-6
T308 (net325 net232 net232 0) nfet L=5.20E-6 W=5.53E-6
T309 (net243 net371 net371 0) pfet L=9.79E-6 W=7.02E-6
R310 (net311 net307) R=1.2E2
T311 (net205 net202 net202 0) pfet L=1.00E-6 W=9.20E-6
T312 (net96 net41 net41 0) nfet L=0.57E-6 W=8.82E-6
C313 (net273 net276) C=9.0E-14
T314 (net362 net347 net347 0) nfet L=9.35E-6 W=6.80E-6
C315 (net398 net123) C=5.5E-12
T316 (net126 net365 net365 0) pfet L=4.55E-6 W=6.60E-6
T317 (net6 net160 net160 0) nfet L=4.17E-6 W=6.72E-6
R318 (net67 net9) R=1.7E0
T319 (vdd! net48 net48 0) pfet L=3.11E-6 W=0.61E-6
T320 (net245 net167 net167 0) pfet L=7.13E-6 W=9.02E-6
T321 (net210 net324 net324 0) nfet L=8.33E-6 W=4.67E-6
R322 (net83 net74) R=6.2E0
R323 (net295 net111) R=0.2E3
T324 (net386 net61 net61 0) nfet L=3.35E-6 W=9.13E-6
T325 (net227 net255 net255 0) pfet L=9.97E-6 W=0.20E-6
T326 (net239 net76 net76 0) pfet L=7.27E-6 W=2.79E-6
T327 (net359 net396 net396 0) pfet L=7.53E-6 W=0.31E-6
R328 (net315 net271) R=3.6E6
C329 (net172 net270) C=8.9E-11
C330 (net272 net392) C=4.6E-9
T331 (net185 net57 net57 0) pfet L=4.74E-6 W=6.26E-6
T332 (net149 vdd! vdd! 0) nfet L=5.92E-6 W=1.59E-6
T333 (net180 net38 net38 0) pfet L=7.62E-6 W=0.71E-6
T334 (net314 net209 net209 0) nfet L=7.39E-6 W=1.24E-6
T335 (net333 net179 net179 0) pfet L=3.83E-6 W=6.68E-6
R336 (net242 net131) R=3.6E2
T337 (net361 net272 net272 0) nfet L=5.85E-6 W=5.67E-6
T338 (vdd! net189 net189 0) nfet L=0.84E-6 W=8.17E-6
T339 (0 net252 net252 0) pfet L=0.85E-6 W=2.55E-6
C340 (net18 net259) C=6.0E-11
T341 (net276 net27 net27 0) nfet L=0.91E-6 W=1.89E-6
T342 (vdd! 0 0 0) pfet L=7.96E-6 W=4.40E-6
C343 (net218 net94) C=3.1E-13
C344 (net44 net267) C=6.5E-8
T345 (net342 net172 net172 0) nfet L=7.95E-6 W=9.13E-6
T346 (net18 net40 net40 0) pfet L=1.20E-6 W=4.73E-6
C347 (vdd! net205) C=8.8E-10
C348 (net374 net197) C=1.8E-9
T349 (0 net253 net253 0) pfet L=9.51E-6 W=7.90E-6
T350 (net300 net107 net107 0) nfet L=2.86E-6 W=3.41E-6
C351 (net219 net311) C=9.4E-9
T352 (net36 net209 net209 0) pfet L=3.13E-6 W=0.28E-6
T353 (net115 net174 net174 0) pfet L=7.19E-6 W=2.47E-6
T354 (net21 net153 net153 0) pfet L=4.21E-6 W=0.73E-6
T355 (net36 net172 net172 0) nfet L=4.20E-6 W=9.57E-6
C356 (net277 0) C=3.1E-8
C357 (net428 net243) C=1.6E-7
T358 (net289 net107 net107 0) nfet L=6.86E-6 W=2.77E-6
C359 (net47 vdd!) C=6.6E-11
R360 (net324 net88) R=1.7E1
T361 (net259 net181 net181 0) nfet L=1.93E-6 W=6.51E-6
T362 (net264 net8 net8 0) nfet L=1.11E-6 W=6.29E-6
C363 (vdd! net275) C=5.8E-5
T364 (net211 net74 net74 0) nfet L=4.28E-6 W=0.12E-6
T365 (net372 net312 net312 0) nfet L=4.68E-6 W=9.09E-6
T366 (net68 net393 net393 0) pfet L=7.16E-6 W=1.01E-6
R367 (net135 vdd!) R=7.5E5
T368 (net286 net44 net44 0) nfet L=3.74E-6 W=1.11E-6
C369 (net406 net347) C=1.8E-11
R370 (net268 net287) R=0.3E4
T371 (net365 net394 net394 0) pfet L=7.31E-6 W=0.60E-6
R372 (net403 0) R=6.7E3
C373 (vdd! net65) C=2.9E-10
R374 (net295 net354) R=3.9E3
C375 (0 net345) C=2.9E-12
R376 (net222 net53) R=1.7E0
T377 (net396 net356 net356 0) pfet L=6.22E-6 W=8.36E-6
T378 (net366 net192 net192 0) nfet L=4.14E-6 W=1.86E-6
T379 (net147 vdd! vdd! 0) pfet L=8.53E-6 W=8.61E-6
T380 (net208 net83 net83 0) nfet L=6.70E-6 W=1.12E-6
C381 (net125 net116) C=0.4E-8
C382 (net76 net72) C=1.1E-12
T383 (net193 net12 net12 0) nfet L=2.76E-6 W=5.91E-6
R384 (net266 net195) R=0.3E1
C385 (net76 net14) C=5.2E-9
T386 (net13 net397 net397 0) pfet L=3.51E-6 W=3.52E-6
C387 (net14 net394) C=6.0E-9
T388 (net411 net191 net191 0) pfet L=0.23E-6 W=0.89E-6
R389 (net71 net363) R=9.0E2
T390 (net394 net231 net231 0) pfet L=3.01E-6 W=2.01E-6
C391 (net203 0) C=7.5E-7
T392 (net55 net225 net225 0) pfet L=4.32E-6 W=7.43E-6
T393 (net362 net320 net320 0) nfet L=2.35E-6 W=1.50E-6
R394 (net47 net427) R=5.5E2
R395 (net258 net388) R=2.7E3
T396 (net364 net195 net195 0) pfet L=8.69E-6 W=3.38E-6
T397 (net108 net420 net420 0) nfet L=6.90E-6 W=2.62E-6
R398 (net383 net284) R=7.7E2
T399 (net302 net42 net42 0) pfet L=9.96E-6 W=9.50E-6
R400 (net180 net218) R=2.2E4
T401 (net163 vdd! vdd! 0) nfet L=9.58E-6 W=7.40E-6
T402 (net134 net320 net320 0) pfet L=9.30E-6 W=4.77E-6
T403 (0 net53 net53 0) pfet L=5.10E-6 W=7.08E-6
T404 (net82 net389 net389 0) pfet L=8.81E-6 W=2.29E-6
C405 (0 net49) C=6.3E-8
C406 (net394 net83) C=6.5E-11
T407 (net85 net218 net218 0) pfet L=1.12E-6 W=9.73E-6
R408 (net350 net282) R=4.1E1
R409 (net186 net393) R=4.9E0
T410 (net396 net55 net55 0) nfet L=7.77E-6 W=2.68E-6
C411 (net33 net285) C=3.8E-7
C412 (net321 net304) C=5.6E-6
T413 (net405 vdd! vdd! 0) nfet L=0.10E-6 W=8.27E-6
R414 (net307 net226) R=3.9E2
C415 (net236 net183) C=7.1E-5
T416 (net283 vdd! vdd! 0) pfet L=9.41E-6 W=3.94E-6
R417 (net71 net277) R=3.6E3
T418 (net215 net13 net13 0) nfet L=4.37E-6 W=6.25E-6
R419 (net384 net178) R=4.8E0
R420 (vdd! net252) R=2.7E6
C421 (net184 net181) C=9.0E-12
T422 (net386 net16 net16 0) pfet L=2.56E-6 W=2.64E-6
T423 (net158 net398 net398 0) nfet L=9.14E-6 W=1.26E-6
T424 (net375 net269 net269 0) nfet L=3.88E-6 W=3.47E-6
R425 (net428 net349) R=0.3E4
T426 (net334 net73 net73 0) nfet L=6.87E-6 W=3.76E-6
T427 (net354 net33 net33 0) nfet L=8.84E-6 W=9.10E-6
C428 (net32 0) C=7.9E-12
R429 (net174 net316) R=1.1E4
T430 (vdd! net89 net89 0) pfet L=4.71E-6 W=9.93E-6
R431 (net41 net140) R=7.1E6
R432 (net111 net176) R=2.8E5
T433 (0 net353 net353 0) pfet L=5.69E-6 W=2.30E-6
T434 (net45 net156 net156 0) nfet L=6.16E-6 W=6.47E-6
C435 (net66 net127) C=7.7E-13
T436 (net265 net137 net137 0) pfet L=3.00E-6 W=9.89E-6
C437 (net252 net184) C=6.4E-7
C438 (net260 net345) C=4.4E-13
R439 (net304 0) R=9.5E5
T440 (net284 net166 net166 0) nfet L=6.68E-6 W=7.56E-6
R441 (net41 net52) R=9.9E6
T442 (net139 net331 net331 0) nfet L=2.67E-6 W=9.02E-6
T443 (net330 net6 net6 0) pfet L=3.81E-6 W=9.66E-6
R444 (net115 net405) R=5.3E5
C445 (net185 net44) C=8.7E-12
T446 (net336 net297 net297 0) nfet L=8.58E-6 W=9.24E-6
R447 (net31 net301) R=8.3E1
T448 (net7 0 0 0) pfet L=8.83E-6 W=6.72E-6
T449 (net77 net283 net283 0) nfet L=4.40E-6 W=9.36E-6
T450 (net64 vdd! vdd! 0) pfet L=5.61E-6 W=9.06E-6
C451 (net347 net324) C=2.4E-8
T452 (net145 net38 net38 0) nfet L=9.08E-6 W=8.37E-6
T453 (net51 net194 net194 0) nfet L=4.47E-6 W=7.20E-6
R454 (net287 net2) R=8.6E5
R455 (net322 net253) R=6.5E4
C456 (net149 net199) C=6.3E-8
R457 (net301 net213) R=6.4E2
T458 (net259 net218 net218 0) pfet L=7.60E-6 W=3.91E-6
C459 (net173 net344) C=7.9E-5
T460 (0 net286 net286 0) nfet L=7.15E-6 W=2.99E-6
R461 (net224 net241) R=0.9E2
T462 (vdd! 0 0 0) nfet L=5.35E-6 W=3.02E-6
T463 (net133 net195 net195 0) nfet L=0.62E-6 W=8.26E-6
C464 (0 net283) C=1.3E-6
R465 (net138 net153) R=4.4E2
R466 (net301 net21) R=8.8E3
T467 (net81 net65 net65 0) pfet L=2.46E-6 W=0.45E-6
T468 (net124 net5 net5 0) nfet L=3.97E-6 W=7.49E-6
T469 (net14 net247 net247 0) nfet L=5.17E-6 W=1.96E-6
C470 (net10 net246) C=6.7E-10
T471 (net406 net145 net145 0) pfet L=5.68E-6 W=7.61E-6
R472 (net421 net429) R=2.7E1
R473 (net144 0) R=4.5E1
T474 (net75 net209 net209 0) nfet L=7.89E-6 W=8.98E-6
R475 (net152 0) R=4.9E3
T476 (net390 vdd! vdd! 0) nfet L=3.27E-6 W=7.72E-6
R477 (net409 net108) R=3.7E2
T478 (net146 net205 net205 0) nfet L=0.13E-6 W=7.46E-6
R479 (vdd! net206) R=2.0E4
C480 (net328 net285) C=8.7E-13
R481 (net404 net384) R=8.7E4
T482 (net128 net119 net119 0) pfet L=4.08E-6 W=2.51E-6
T483 (net56 net77 net77 0) pfet L=7.42E-6 W=1.12E-6
C484 (net155 net192) C=1.1E-14
C485 (net31 net46) C=1.9E-6
R486 (net288 net280) R=4.9E6
R487 (net180 vdd!) R=0.8E2
T488 (net228 net187 net187 0) nfet L=8.13E-6 W=0.32E-6
T489 (net180 net247 net247 0) pfet L=9.90E-6 W=1.92E-6
T490 (vdd! net105 net105 0) nfet L=9.03E-6 W=4.12E-6
T491 (net191 net11 net11 0) pfet L=8.05E-6 W=6.80E-6
R492 (net181 net89) R=5.7E2
R493 (net93 net289) R=10.0E5
T494 (net17 net53 net53 0) pfet L=9.61E-6 W=2.45E-6
T495 (net240 net282 net282 0) nfet L=8.02E-6 W=2.02E-6
C496 (net146 net309) C=6.7E-8
R497 (net292 net163) R=8.1E1
T498 (net31 vdd! vdd! 0) pfet L=6.96E-6 W=3.29E-6
C499 (net218 net190) C=8.7E-11
T500 (net194 vdd! vdd! 0) pfet L=8.13E-6 W=9.44E-6
T501 (net364 net94 net94 0) pfet L=5.14E-6 W=2.78E-6
T502 (0 net383 net383 0) pfet L=5.90E-6 W=9.17E-6
T503 (0 net85 net85 0) nfet L=1.67E-6 W=0.12E-6
C504 (net353 net314) C=6.4E-8
T505 (net275 net48 net48 0) pfet L=7.91E-6 W=6.66E-6
T506 (net152 net252 net252 0) pfet L=2.05E-6 W=3.10E-6
C507 (net147 net83) C=4.3E-10
T508 (0 net97 net97 0) pfet L=9.30E-6 W=0.75E-6
T509 (net155 net395 net395 0) nfet L=1.06E-6 W=6.70E-6
C510 (net86 net345) C=2.0E-8
T511 (net344 net354 net354 0) pfet L=8.25E-6 W=1.14E-6
R512 (net145 net78) R=8.1E0
T513 (net393 net164 net164 0) pfet L=4.30E-6 W=2.86E-6
C514 (net280 net166) C=0.3E-8
R515 (0 net93) R=4.2E5
C516 (net154 net32) C=8.1E-14
C517 (net78 net386) C=3.1E-11
R518 (net425 vdd!) R=0.5E1
T519 (net425 net400 net400 0) nfet L=6.59E-6 W=7.74E-6
T520 (net249 net55 net55 0) pfet L=5.65E-6 W=4.96E-6
C521 (vdd! net6) C=9.3E-10
T522 (net317 net223 net223 0) nfet L=7.31E-6 W=8.21E-6
T523 (net312 net161 net161 0) pfet L=4.28E-6 W=0.34E-6
T524 (net305 net204 net204 0) pfet L=4.78E-6 W=2.10E-6
C525 (net410 0) C=3.8E-12
T526 (0 net55 net55 0) nfet L=7.53E-6 W=5.55E-6
C527 (net274 net154) C=3.9E-6
C528 (net295 net81) C=7.1E-14
C529 (net164 net218) C=9.5E-5
T530 (net232 net164 net164 0) nfet L=5.26E-6 W=8.46E-6
T531 (net385 net130 net130 0) pfet L=2.62E-6 W=1.19E-6
R532 (net393 net229) R=7.3E1
R533 (net332 net336) R=4.3E2
T534 (net230 0 0 0) nfet L=9.19E-6 W=5.10E-6
T535 (0 net367 net367 0) nfet L=8.26E-6 W=3.68E-6
T536 (net233 net135 net135 0) pfet L=8.02E-6 W=1.14E-6
R537 (vdd! net175) R=1.4E6
T538 (net244 net312 net312 0) nfet L=9.95E-6 W=7.29E-6
T539 (net338 net376 net376 0) nfet L=1.89E-6 W=0.83E-6
T540 (net426 vdd! vdd! 0) nfet L=6.98E-6 W=4.02E-6
T541 (net412 net60 net60 0) nfet L=0.56E-6 W=0.79E-6
T542 (net184 net211 net211 0) nfet L=6.33E-6 W=2.86E-6
T543 (net348 net199 net199 0) pfet L=5.00E-6 W=5.79E-6
T544 (net234 net90 net90 0) pfet L=5.09E-6 W=5.49E-6
T545 (net49 net393 net393 0) nfet L=6.35E-6 W=5.64E-6
T546 (net135 vdd! vdd! 0) nfet L=1.67E-6 W=6.27E-6
T547 (vdd! net297 net297 0) nfet L=6.67E-6 W=2.12E-6
T548 (net121 net9 net9 0) pfet L=8.44E-6 W=7.61E-6
C549 (net124 net71) C=7.8E-12
C550 (net365 net341) C=0.8E-11
T551 (net254 net378 net378 0) pfet L=5.92E-6 W=4.50E-6
R552 (net265 net372) R=8.3E4
C553 (net350 net346) C=8.9E-14
C554 (net91 net196) C=6.6E-9
C555 (net297 vdd!) C=3.3E-13
T556 (net188 net240 net240 0) pfet L=8.14E-6 W=7.69E-6
T557 (net35 net289 net289 0) pfet L=2.74E-6 W=0.11E-6
C558 (net363 net6) C=9.3E-12
R559 (net424 net408) R=5.4E4
T560 (net175 net345 net345 0) nfet L=3.22E-6 W=8.19E-6
T561 (net338 net207 net207 0) nfet L=5.24E-6 W=4.86E-6
T562 (net271 net223 net223 0) nfet L=6.54E-6 W=7.74E-6
T563 (vdd! net49 net49 0) nfet L=7.34E-6 W=2.01E-6
R564 (net163 0) R=3.9E0
C565 (net346 net408) C=5.9E-8
T566 (net44 net137 net137 0) nfet L=6.54E-6 W=3.43E-6
T567 (net326 net233 net233 0) pfet L=1.52E-6 W=7.95E-6
R568 (net428 net130) R=4.2E3
T569 (net209 net407 net407 0) nfet L=4.27E-6 W=1.90E-6
C570 (net371 net22) C=4.4E-12
R571 (net346 0) R=8.6E0
C572 (net169 net266) C=1.2E-10
T573 (net425 vdd! vdd! 0) nfet L=0.60E-6 W=9.23E-6
T574 (net54 net16 net16 0) pfet L=4.02E-6 W=6.22E-6
T575 (net35 net88 net88 0) pfet L=5.01E-6 W=6.21E-6
C576 (vdd! net398) C=0.4E-7
R577 (net242 net374) R=0.7E5
T578 (net5 net318 net318 0) nfet L=5.64E-6 W=0.88E-6

